US05128355
Part A. Preparation of 2-n-Butyl-4-chloro-1-(4-nitrophenyl)imidazole-5-carboxaldehyde
2-n-Butyl-4-chloroimidazole-5-carboxaldehyde (10.00 g, 53.6 mmol, 1 eq.) was dissolved in a freshly prepared solution of sodium methoxide (1.23 g Na, 53.6 mmol, 1 eq.) in methanol (175 mL). The methanol was removed in vacuo and replaced with DMF (100 mL). 4-Fluoro-1-nitrobenzene (11.37 mL, 107.0 mmol, 2 eq.) was then added. The mixture was heated at 100° C. for 36 h. Two more equivalents of 4-fluoro-1-nitrobenzene were then added and the mixture heated at 100° C. for an additional 48 hours. The DMF was removed in vacuo and the residue partitioned between ethyl acetate and water. The aqueous phase was extracted twice more with ethyl acetate, the organic layers combined, dried (MgSO4) and the solvent removed in vacuo. Flash chromatography of the residue over silica gel in 9:1 toluene/ethyl acetate yielded 4.92 g (30%) of an amber oil. NMR (CDCl3): δ 9.74 (s, 1); 8.42 (d, 2H, J=9Hz); 7.46 (d, 2H, J=9Hz); 2.51 (t, 2H, J=7Hz); 1.67 (t of t, 2H, J=7,7Hz); 1.30 (t of q, 2H, J=7,7Hz); 0.84 (t, 3H, J=7Hz). Anal. calcd. for C14H14ClN3O3 : C, 54.64; H, 4.59; Cl, 11.52, N, 13.65. Found: C, 54.91; H, 4.67; Cl, 11.20; N, 13.62.

reactant | 2-n-Butyl-4-chloroimidazole-5-carboxaldehyde | 53.6 mmol, 10.00 g, 1 eq. | C(CCC)C=1NC(=C(N1)Cl)C=O | C8H11ClN2O
reactant | sodium methoxide | 53.6 mmol, 1.23 g, 1 eq. | C[O-].[Na+]
reactant | 4-Fluoro-1-nitrobenzene | 107.0 mmol, 11.37 mL, 2 eq. | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | methanol | 175 mL | CO | CH4O
product | 2-n-Butyl-4-chloro-1-(4-nitrophenyl)imidazole-5-carboxaldehyde | 4.92 g, 30% | C(CCC)C=1N(C(=C(N1)Cl)C=O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H14ClN3O3
